US08138339B2
To a solution of ethyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-2-chloropyrimidine-5-carboxylate (0.390 g, 0.979 mmol) in THF (5 mL), aq. 1N LiOH (1.10 mL, 1.10 mmol) was added. After being stirred for 20 h, water (10 mL) was added. The solution was acidified with 1N HCl (2 mL) to pH 1-2. The product was extracted with EtOAc. The EtOAc solution was washed with brine, dried over Na2SO4, concentrated in vacuo to give 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-2-chloropyrimidine-5-carboxylic acid as a solid (0.353 g).

reactant | ethyl 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-2-chloropyrimidine-5-carboxylate | 0.979 mmol, 0.390 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC(=NC=C1C(=O)OCC)Cl | C18H27ClN4O4
reactant | LiOH | 1.10 mmol, 1N, 1.10 mL | [Li+].[OH-]
reactant | water | 10 mL | O | H2O
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methylamino)-2-chloropyrimidine-5-carboxylic acid | 0.353 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC(=NC=C1C(=O)O)Cl | C16H23ClN4O4
